US05013479
The procedure of Example 26 was followed except for use of (+)-4-(1-(6-(S)-methyloctyloxy)ethyl)phenol in place of (+)-4-(1-methoxyethyl)phenol and 4-octyloxybenzoic acid chloride in place of 4'-octyloxy-4-biphenylcarboxylic acid chloride to obtain (+)-4-(1-(6(S)-methyloctyloxy)ethyl)phenyl 4-octyloxy-benzoate. [α]D20 =+44.0° (c=1, CHCl3)

reactant | (+)-4-(1-(6-(S)-methyloctyloxy)ethyl)phenol | C[C@H](CCCCCOC(C)C1=CC=C(C=C1)O)CC | C17H28O2
reactant | 4-octyloxybenzoic acid chloride | C(CCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
product | (+)-4-(1-(6(S)-methyloctyloxy)ethyl)phenyl 4-octyloxy-benzoate | C(CCCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C(C)OCCCCC[C@H](CC)C)C=C1 | C32H48O4
